US08183246B2
6-{[6-(3-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid
Add 0.5 ml 1 N sodium hydroxide solution to a solution of 45 mg (0.01 mmol) 6-{[6-(3-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester in 2.5 ml dioxan, and stir for 16 h at RT. After adding 0.75 ml 1 N hydrochloric acid, concentrate the reaction solution by vacuum evaporation. Mix the residue with diethyl ether, filter, and dry under vacuum. 42 mg (93% of theor.) of the desired product is obtained.

reactant | sodium hydroxide | 1 N, 0.5 ml | [OH-].[Na+]
reactant | 6-{[6-(3-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.01 mmol, 45 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC(=CC=C2)F)=O | C26H26FN3O4
reactant | hydrochloric acid | 1 N, 0.75 ml | Cl | ClH
solvent | dioxan | 2.5 ml | O1CCOCC1 | C4H8O2
product | 6-{[6-(3-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid | FC=1C=C(C=CC1)C1=C(C2=C(N=CN=C2NCCCCCC(=O)O)O1)C1=CC=C(C=C1)OC | C25H24FN3O4
